### PR TITLE
[Merged by Bors] - feat: port Topology.Algebra.Group.Basic

### PR DESCRIPTION
**Pull request by mcdoll**
---

- [x] depends on:  #2245

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#2245
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Topology/Algebra/Group/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,2014 @@
...
+  i.e., groups with continuous `(*)` and `(⁻¹)` / `(+)` and `(-)`;
+
+* `has_continuous_sub G` means that `G` has a continuous subtraction operation.
+
+There is an instance deducing `has_continuous_sub` from `topological_group` but we use a separate
+typeclass because, e.g., `ℕ` and `ℝ≥0` have continuous subtraction but are not additive groups.
+
+We also define `homeomorph` versions of several `equiv`s: `homeomorph.mul_left`,
+`homeomorph.mul_right`, `homeomorph.inv`, and prove a few facts about neighbourhood filters in
+groups.
```
Comment (dupuisf) [inline Mathlib/Topology/Algebra/Group/Basic.lean:32]:
```suggestion
* `TopologicalGroup`, `TopologicalAddGroup`: multiplicative and additive topological groups,
  i.e., groups with continuous `(*)` and `(⁻¹)` / `(+)` and `(-)`;

* `has_continuous_sub G` means that `G` has a continuous subtraction operation.

There is an instance deducing `ContinuousSub` from `TopologicalGroup` but we use a separate
typeclass because, e.g., `ℕ` and `ℝ≥0` have continuous subtraction but are not additive groups.

We also define `homeomorph` versions of several `equiv`s: `homeomorph.mul_left`,
`Homeomorph.mul_right`, `Homeomorph.inv`, and prove a few facts about neighbourhood filters in
groups.
```

File: Mathlib/Topology/Algebra/Group/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,2014 @@
...
+/-- Basic hypothesis to talk about a topological additive group. A topological additive group
+over `M`, for example, is obtained by requiring the instances `add_group M` and
+`has_continuous_add M` and `has_continuous_neg M`. -/
+class ContinuousNeg (G : Type u) [TopologicalSpace G] [Neg G] : Prop where
+  continuous_neg : Continuous fun a : G => -a
+#align has_continuous_neg ContinuousNeg
+
+/-- Basic hypothesis to talk about a topological group. A topological group over `M`, for example,
+is obtained by requiring the instances `group M` and `has_continuous_mul M` and
+`has_continuous_inv M`. -/
```
Comment (dupuisf) [inline Mathlib/Topology/Algebra/Group/Basic.lean:187]:
```suggestion
/-- Basic hypothesis to talk about a topological group. A topological group over `M`, for example,
is obtained by requiring the instances `Group M` and `ContinuousMul M` and
`ContinuousInv M`. -/
```

File: Mathlib/Topology/Algebra/Group/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,2014 @@
...
+theorem Filter.Tendsto.div_const' {c : G} {f : α → G} {l : Filter α} (h : Tendsto f l (𝓝 c))
+    (b : G) : Tendsto (fun k : α => f k / b) l (𝓝 (c / b)) :=
+  h.div' tendsto_const_nhds
+#align filter.tendsto.div_const' Filter.Tendsto.div_const'
+#align filter.tendsto.sub_const Filter.Tendsto.sub_const
+
+variable [TopologicalSpace α] {f g : α → G} {s : Set α} {x : α}
+
+@[continuity, to_additive sub]
+theorem Continuous.div' (hf : Continuous f) (hg : Continuous g) : Continuous fun x => f x / g x :=
```
Comment (dupuisf) [inline Mathlib/Topology/Algebra/Group/Basic.lean:1103]:
```suggestion
@[to_additive sub (attr := continuity)]
theorem Continuous.div' (hf : Continuous f) (hg : Continuous g) : Continuous fun x => f x / g x :=
```
Again, not sure about the syntax.

File: Mathlib/Topology/Algebra/Group/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,2014 @@
...
+  continuous_div'.comp (hf.prod_mk hg : _)
+#align continuous.div' Continuous.div'
+#align continuous.sub Continuous.sub
+
+@[to_additive continuous_sub_left]
+theorem continuous_div_left' (a : G) : Continuous fun b : G => a / b :=
```
Comment (dupuisf) [inline Mathlib/Topology/Algebra/Group/Basic.lean:1109]:
```suggestion
@[to_additive continuous_sub_left (attr := continuity)]
theorem continuous_div_left' (a : G) : Continuous fun b : G => a / b :=
```

File: Mathlib/Topology/Algebra/Group/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,2014 @@
...
+  continuous_const.div' continuous_id
+#align continuous_div_left' continuous_div_left'
+#align continuous_sub_left continuous_sub_left
+
+@[to_additive continuous_sub_right]
+theorem continuous_div_right' (a : G) : Continuous fun b : G => b / a :=
```
Comment (dupuisf) [inline Mathlib/Topology/Algebra/Group/Basic.lean:1115]:
```suggestion
@[to_additive continuous_sub_right (attr := continuity)]
theorem continuous_div_right' (a : G) : Continuous fun b : G => b / a :=
```

File: Mathlib/Topology/Algebra/Group/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,2014 @@
...
+@[to_additive]
+theorem IsOpen.closure_div (ht : IsOpen t) (s : Set α) : closure s / t = s / t := by
+  simp_rw [div_eq_mul_inv, ht.inv.closure_mul]
+#align is_open.closure_div IsOpen.closure_div
+#align is_open.closure_sub IsOpen.closure_sub
+
+end TopologicalGroup
+
+/- ./././Mathport/Syntax/Translate/Command.lean:388:30:
+  infer kinds are unsupported in Lean 4: #[`z] [] -/
```
Comment (dupuisf) [inline Mathlib/Topology/Algebra/Group/Basic.lean:1393]:
```suggestion
```

File: Mathlib/Topology/Algebra/Group/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,2014 @@
...
+#align subgroup.t3_quotient_of_is_closed Subgroup.t3_quotient_of_isClosed
+#align add_subgroup.t3_quotient_of_is_closed AddSubgroup.t3_quotient_of_isClosed
+
+/-- A subgroup `S` of a topological group `G` acts on `G` properly discontinuously on the left, if
+it is discrete in the sense that `S ∩ K` is finite for all compact `K`. (See also
+`discrete_topology`.) -/
+@[to_additive
+  "A subgroup `S` of an additive topological group `G` acts on `G` properly
+  discontinuously on the left, if it is discrete in the sense that `S ∩ K` is finite for all compact
+  `K`. (See also `discrete_topology`."]
```
Comment (dupuisf) [inline Mathlib/Topology/Algebra/Group/Basic.lean:1469]:
```suggestion
/-- A subgroup `S` of a topological group `G` acts on `G` properly discontinuously on the left, if
it is discrete in the sense that `S ∩ K` is finite for all compact `K`. (See also
`DiscreteTopology`.) -/
@[to_additive
  "A subgroup `S` of an additive topological group `G` acts on `G` properly
  discontinuously on the left, if it is discrete in the sense that `S ∩ K` is finite for all compact
  `K`. (See also `DiscreteTopology`."]
```

File: Mathlib/Topology/Algebra/Group/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,2014 @@
...
+to show that the quotient group `G ⧸ S` is Hausdorff. -/
+@[to_additive
+  "A subgroup `S` of an additive topological group `G`
+  acts on `G` properly discontinuously on the right,
+  if it is discrete in the sense that `S ∩ K` is finite for all compact `K`.
+  (See also `discrete_topology`.)
+
+  If `G` is Hausdorff, this can be combined with
+  `t2_space_of_properly_discontinuous_vadd_of_t2_space`
+  to show that the quotient group `G ⧸ S` is Hausdorff."]
```
Comment (dupuisf) [inline Mathlib/Topology/Algebra/Group/Basic.lean:1499]:
```suggestion
If `G` is Hausdorff, this can be combined with `t2Space_of_properlyDiscontinuousSMul_of_t2Space`
to show that the quotient group `G ⧸ S` is Hausdorff. -/
@[to_additive
  "A subgroup `S` of an additive topological group `G`
  acts on `G` properly discontinuously on the right,
  if it is discrete in the sense that `S ∩ K` is finite for all compact `K`.
  (See also `DiscreteTopology`.)

  If `G` is Hausdorff, this can be combined with
  `t2Space_of_properlyDiscontinuousVAdd_of_t2Space`
  to show that the quotient group `G ⧸ S` is Hausdorff."]
```

File: Mathlib/Topology/Algebra/Group/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,2014 @@
...
+    by rw [← map_mul_left_nhds_one x, ← map_mul_right_nhds_one y, ← map₂_mul, map₂_map_left,
+        map₂_map_right]
+
+#align nhds_mul nhds_mul
+#align nhds_add nhds_add
+
+/-- On a topological group, `𝓝 : G → filter G` can be promoted to a `mul_hom`. -/
+@[to_additive
+  "On an additive topological group, `𝓝 : G → filter G` can be promoted to an `add_hom`.",
+  simps]
```
Comment (dupuisf) [inline Mathlib/Topology/Algebra/Group/Basic.lean:1685]:
```suggestion
/-- On a topological group, `𝓝 : G → Filter G` can be promoted to a `MulHom`. -/
@[to_additive
  "On an additive topological group, `𝓝 : G → Filter G` can be promoted to an `AddHom`.",
  simps]
```

File: Mathlib/Topology/Algebra/Group/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,2014 @@
...
+lattice, with `⊥` the discrete topology and `⊤` the indiscrete topology.
+
+Any function `f : α → β` induces `coinduced f : topological_space α → group_topology β`.
+
+The additive version `add_group_topology α` and corresponding results are provided as well.
+-/
+
+
+/-- A group topology on a group `α` is a topology for which multiplication and inversion
+are continuous. -/
```
Comment (dupuisf) [inline Mathlib/Topology/Algebra/Group/Basic.lean:1816]: This comment also needs to be adjusted.

**Review by dupuisf — COMMENTED** [review]
Lots of mostly cosmetic changes, but looks good!

bors d+

**Comment by jcommelin** [comment]
bors merge
